US06610701B2
Through a solution of (3-[1,2,4]Triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester (4.08 g) in CH2Cl2 (100 ml) and MeOH (20 ml) cooled to 0° C. is bubbled HCl (g) for 10 min. The flask is sealed and the reaction mixture is stirred at room temperature for 18 h. Nitrogen is bubbled through the reaction mixture for 5 min and the reaction mixture is concentrated to give C-(3-[1,2,4]Triazol-1-yl-pyridin-2-yl)-methylamine di hydrochloride as a white solid. 1H NMR (CD3OD, 400 MHz) δ9.67 (s, 1H); 8.85 (d, J=5.3 Hz, 1H); 8.72 (s, 1H); 8.18 (d, J=8 Hz, 1 H); 7.7 (dd, J=5.3, 8 Hz, 1H); 4.45 (s, 2H).

reactant | (3-[1,2,4]Triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 4.08 g | C(C)(C)(C)OC(NCC1=NC=CC=C1N1N=CN=C1)=O | C13H17N5O2
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 ml | CO | CH4O
product | C-(3-[1,2,4]Triazol-1-yl-pyridin-2-yl)-methylamine di hydrochloride | Cl.Cl.N1(N=CN=C1)C=1C(=NC=CC1)CN | InChI=1S/C8H9N5.2ClH/c9-4-7-8(2-1-3-11-7)13-6-10-5-12-13;;/h1-3,5-6H,4,9H2;2*1H
